US08877782B2
N-Isochroman-4-yl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using rac-3,4-dihydro-1H-isochromen-4-amine hydrochloride instead of methylamine, to the title compound (136 mg, 96%) which was obtained as an off white solid. MS: m/e=442.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | rac-3,4-dihydro-1H-isochromen-4-amine hydrochloride | Cl.C1OCC(C2=CC=CC=C12)N
product | N-Isochroman-4-yl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 136 mg, 96% | C1OCC(C2=CC=CC=C12)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C26H23N3O4
